US04166742
11.7 g of N-methyl-o-phenylenediamine hydrochloride, 9.1 g of carbon disulfide and an aqueous solution containing 7.2 g of sodium hydroxide and 20 ml of water were added to 150 ml of ethanol and the mixture was heated and refluxed for 4 hours. After cooling, a 3 N hydrochloric acid aqueous solution was added to the reaction mixture to make the reaction solution slightly acidic and, thereby, crystals were precipitated. After filtration, the crystals were recrystallized from a mixture of water and ethanol (70:30 by volume) to obtain 6 g of 2-mercapto-1-methylbenzimidazole (Compound (III-11)) having a melting point of 194° to 195° C. (yield: 67%).

reactant | N-methyl-o-phenylenediamine hydrochloride | 11.7 g | Cl.CNC1=C(C=CC=C1)N
reactant | carbon disulfide | 9.1 g | C(=S)=S | CS2
reactant | sodium hydroxide | 7.2 g | [OH-].[Na+]
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 2-mercapto-1-methylbenzimidazole | 6 g, yield: 67% | SC1=NC2=C(N1C)C=CC=C2 | C8H8N2S
